US04935430
(a) 5-(4-Cyanophenyl)-4-methylthiazol-2-thiol
A solution of 4-(1-bromo-2-oxopropyl)benzonitrile (4.65 g, 0.02 mol) in absolute ethanol (20 ml) was added over 10 minutes to a stirred suspension of ammonium dithiocarbamate (2.2 g, 0.02 mol) in absolute ethanol (20 ml) at ambient temperature and the reaction mixture stirred for an additional 24 hours. The reaction mixture was then diluted with H2O (50 ml), the bulk of the ethanol evaporated under reduced pressure and product extracted with ethyl acetate. The organic extract was dried (MgSO4), filtered and the filtrate concentrated in vacuo. Trituration of the residue with ethanol and filtration gave the title product (1.2 g, 26%).

reactant | 4-(1-bromo-2-oxopropyl)benzonitrile | 0.02 mol, 4.65 g | BrC(C(C)=O)C1=CC=C(C#N)C=C1 | C10H8BrNO
reactant | ammonium dithiocarbamate | 0.02 mol, 2.2 g | C(N)([S-])=S.[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | H2O | 50 ml | O | H2O
product | 5-(4-Cyanophenyl)-4-methylthiazol-2-thiol | 1.2 g, 26% | C(#N)C1=CC=C(C=C1)C1=C(N=C(S1)S)C | C11H8N2S2
